US07491732B2
O-Cyanomethyl-4-nitrophenol (8 g) was dissolved in methanol (50 mL) and to the solution was added hydroxyamine HCl (3.4 g) and triethylamine (9.4 mL). The reaction mixture was refluxed for 4 d and the solvent was removed under reduced pressure. The residue was redissolved in THF (50 mL). To the solution was added AcCl (23 mL) and triethylamine (50 mL). The reaction mixture was stirred at rt overnight, then added water (30 mL) and NaOH (18 g). The reaction solution was refluxed overnight, then diluted with water (200 mL). The aq. solution was extracted with EtOAc (2×150 mL). After separation, the combined EtOAc layers were dried, evaporated. The residue was purified by flash column chromatography (EtOAc/hexanes=1/2, 1/1, EtOAc) and recrystallized from EtOAc and hexanes to give O-(5-methyl-1,2,4-oxadiazol-3-yl)methyl-4-nitrophenol.

reactant | O-Cyanomethyl-4-nitrophenol | 8 g | C(#N)COC1=CC=C(C=C1)[N+](=O)[O-] | C8H6N2O3
reactant | hydroxyamine HCl | 3.4 g | Cl.ON
reactant | triethylamine | 9.4 mL | C(C)N(CC)CC | C6H15N
solvent | methanol | 50 mL | CO | CH4O
product | O-(5-methyl-1,2,4-oxadiazol-3-yl)methyl-4-nitrophenol | CC1=NC(=NO1)COC1=CC=C(C=C1)[N+](=O)[O-] | C10H9N3O4
